US07265131B2
In a 10 mL round bottomed flask equipped with a magnetic stir bar 2-[2-(4-benzyloxyphenyl)-2-oxo-ethyl]-6-chloro-N,N-diethylbenzamide (340 mg, 0.78 mmol) was treated with propionic acid (1.5 mL). The resulting mixture was stirred and heated to reflux in a 165° C. oil bath. As the reaction heated, the 2-[2-(4-benzyloxyphenyl)-2-oxo-thyl]-6-chloro-N,N-diethylbenzamide was dissolved in the propionic acid to afford a pale brown solution. After stirring at reflux for 88 hours, the reaction was analyzed by TLC, which showed no starting material remaining. The reaction was allowed to cool to ambient temperature during which time a mass of pale brown crystals were deposited on the walls of the reaction flask. The reaction mixture was diluted with ethyl acetate to dissolve the solids, and the resulting solution was washed with saturated aqueous NaHCO3 solution. The basic aqueous solution was then extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford an off-white solid. This material was quite clean by 1H NMR analysis and was further purified by recrystallization from EtOAc to afford 3-(4-benzyloxyphenyl)-8-chloro-isochromen-1-one (206 mg, 73% yield) as pale yellow crystals.

reactant | 2-[2-(4-benzyloxyphenyl)-2-oxo-ethyl]-6-chloro-N,N-diethylbenzamide | 0.78 mmol, 340 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=C(C(=O)N(CC)CC)C(=CC=C1)Cl)=O | C26H26ClNO3
solvent | propionic acid | C(CC)(=O)O | C3H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | propionic acid | 1.5 mL | C(CC)(=O)O | C3H6O2
product | 3-(4-benzyloxyphenyl)-8-chloro-isochromen-1-one | 206 mg, 73% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(C2=C(C=CC=C2C1)Cl)=O | C22H15ClO3
